US09328106B2
5-(1-Allyloxypent-4-enyl)-1-methyl-4-nitro-pyrazole (5 g, 19.92 mmol) was dissolved in toluene (1 L) and the mixture was degassed for 30 min before Benzylidene-bis(tricyclohexylphosphine)dichlororuthenium, Bis(tricyclohexylphosphine)benzylidine ruthenium(IV) dichloride, “Grubbs 1st generation catalyst” CAS No. 172222-30-9, Sigma-Aldrich Product No. 579726, U.S. Pat. No. 6,111,121, (878 mg, 0.99 mmol) was added. The reaction mixture was further degassed for 20 min, then heated at reflux for 2 hr, cooled to room temperature and filtered through Celite®. The filtrate was concentrated under reduced pressure. The residue was dissolved in EtOAc (200 mL), washed with aqueous 1 M HCl (150 mL), water (150 mL), saturated aqueous NaHCO3 (2×150 mL) and brine (150 mL). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-20% EtOAc/isohexane) gave 1-methyl-4-nitro-5-(2,3,4,7-tetrahydrooxepin-2-yl)pyrazole as a clear oil (3.3 g, 75%). 1H NMR (400 MHz, CDCl3) δ 8.02 (s, 1H), 5.99-5.91 (m, 1H), 5.83-5.76 (m, 1H), 5.59 (dd, J=9.4, 3.0 Hz, 1H), 4.42 (dd, J=15.8, 5.5 Hz, 1H), 4.24-4.17 (m, 1H), 4.06 (s, 3H), 2.58-2.48 (m, 1H), 2.46-2.36 (m, 1H), 2.14 (ddt, J=14.1, 6.8, 3.5 Hz, 1H), 1.99-1.88 (m, 1H).

reactant | 5-(1-Allyloxypent-4-enyl)-1-methyl-4-nitro-pyrazole | 19.92 mmol, 5 g | C(C=C)OC(CCC=C)C1=C(C=NN1C)[N+](=O)[O-] | C12H17N3O3
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-4-nitro-5-(2,3,4,7-tetrahydrooxepin-2-yl)pyrazole | 3.3 g, 75% | CN1N=CC(=C1C1OCC=CCC1)[N+](=O)[O-] | C10H13N3O3
